US08461185B2
3-(5-Methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]-N-{(1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide
To a solution of 3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid (2.9 g, 5.57 mmol) in N,N-dimethylformamide (28 mL) were added (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]etanamine hydrochloride salt (1.52 g, 6.69 mmol), EDC (1.60 g, 8.36 mmol), HOAT (190 mg, 1.39 mmol) and triethylamine (3.1 mL, 22.3 mmol). The reaction mixture was stirred at ambient temperature. After 2 h, the mixture was heated to 50° C. After 1 h, the mixture was cooled to ambient temperature and saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Ethyl acetate (200 mL) was added the mixture was heated to 70° C. The solution was cooled and placed in the refrigerator for product to precipitate out. The precipiatated solid was filtered, washed with cold ethyl acetate and dried under reduced pressure gave the title compound (2.17 g). HRMS 532.1972 (M+1). 1H NMR (500, MHz, CDCl3) δ 8.80 (s, 1H), 8.61-8.60 (d, J=4.9 Hz, 1H), 8.51 (s, 1H), 8.45-8.44 (m, 2H), 8.15 (t, J=1.5 Hz, 1H), 7.91-7.89 (m, 1H), 7.74-7.71 (dd, J=7.8, 6.1 Hz, 2H), 7.68-7.67 (d, J=8.1 Hz, 1H), 7.62-7.60 (m, 1H), 7.57-7.55 (d, J=7.8 Hz, 1H), 7.25-7.23 (m, 1H), 6.69-6.67 (d, J=6.8 Hz, 1H), 5.93-5.89 (dd, J=9.9, 7.9 Hz, 1H), 5.44-5.38 (m, 1H), 3.94-3.86 (m, 2H), 2.4 (s, 3H), 1.70-1.68 (d, J=7.1 Hz, 3H).

reactant | 3-(5-methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid | 5.57 mmol, 2.9 g | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C21H17N3O3
reactant | (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]etanamine hydrochloride salt | 6.69 mmol, 1.52 g | Cl.FC(C1=CC=C(C=N1)[C@@H](C)N)(F)F
reactant | EDC | 8.36 mmol, 1.60 g
reactant | HOAT | 1.39 mmol, 190 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 22.3 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 28 mL | CN(C=O)C | C3H7NO
product | 3-(5-Methylpyridin-2-yl)-5-[(5S)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]-N-{(1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide | 2.17 g | CC=1C=CC(=NC1)C=1C=C(C(=O)N[C@H](C)C=2C=NC(=CC2)C(F)(F)F)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C29H24F3N5O2
